US07157579B2
A mixture of 144 mg of 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3,4-dihydro-1H-pyridin-2-one, 0.66 ml of tetrahydrofuran and 163 mg of o-chloranil was refluxed with stirring for one hour. The reaction mixture was cooled to room temperature, and then water was poured therein and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 72 mg of 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-1H-pyridin-2-one.

reactant | 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-3,4-dihydro-1H-pyridin-2-one | 144 mg | ClC1=C(OC2C(NC=CC2)=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H12ClF4N3O4
reactant | tetrahydrofuran | 0.66 ml | O1CCCC1 | C4H8O
reactant | o-chloranil | 163 mg | C1(=C(C(=O)C(=O)C(=C1Cl)Cl)Cl)Cl | C6Cl4O2
solvent | water | O | H2O
product | 3-[2-chloro-4-fluoro-5-(3-methyl-2,6-dioxo-4-trifluoromethyl-1,2,3,6-tetrahydropyrimidin-1-yl)phenoxy]-1H-pyridin-2-one | 72 mg | ClC1=C(OC=2C(NC=CC2)=O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C17H10ClF4N3O4
